US06586626B2
CH3CHClCOOH (50 g) and CH2═CHCH2CH2OH (75 ml) were put into a flask, and 10 ml of concentrated sulfuric acid was added dropwise, followed by stirring at room temperature for 10 minutes. The reaction solution was poured into 250 ml of a saturated sodium carbonate aqueous solution. 150 ml of water and 150 ml of t-butylmethyl ether were added for liquid separation to obtain a t-butylmethyl ether layer as an organic layer. The organic layer was washed with 150 ml of water, dried over magnesium sulfate and then subjected to filtration to obtain a crude liquid. The crude liquid was concentrated to obtain CH3CHClCOOCH2CH2CH═CH2.

reactant | CH3CHClCOOH | 50 g | CC(Cl)C(=O)O | C3H5ClO2
reactant | CH2═CHCH2CH2OH | 75 ml | C=CCCO | C4H8O
reactant | sulfuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium carbonate | 250 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | t-butylmethyl ether | C(C)(C)(C)OC | C5H12O
solvent | t-butylmethyl ether | 150 ml | C(C)(C)(C)OC | C5H12O
solvent | water | 150 ml | O | H2O
product | CH3CHClCOOCH2CH2CH═CH2 | CC(Cl)C(=O)OCCC=C | C7H11ClO2
